US07741327B2
A mixture of (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.38 g, 1.11 mmol) in tetrahydrofuran (8.4 mL) and water (2.8 mL) was treated with lithium hydroxide monohydrate (56 mg, 1.34 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was diluted with water (100 mL), acidified with a 2N aqueous hydrochloric acid solution and then extracted with 10% methanol/dichloromethane (3×75 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid (0.36 g, 99%) as a light yellow foam: HR-ES-MS m/z calculated for C16H17NO4F2 [M+Na]+ 348.1018, observed 348.1018; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.5 Hz, 3H), 0.93 (d, J=6.5 Hz, 3H), 1.38-1.52 (m, 1H), 1.62 (ddd, J=14.0, 9.7, 4.4 Hz, 1H), 1.77-1.84 (m, 1H), 4.17 (d, J=18.2 Hz, 1H), 4.28 (d, J=18.2 Hz, 1H), 4.63 (dd, J=11.6, 4.4 Hz, 1H), 5.05 (s, 1H), 7.21-7.33 (m, 1H), 7.46-7.62 (m, 2H), 12.83 (br. s., 1H).

reactant | (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 1.11 mmol, 0.38 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)F)F)=O)=O | C17H19F2NO4
reactant | lithium hydroxide monohydrate | 1.34 mmol, 56 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 8.4 mL | O1CCCC1 | C4H8O
solvent | water | 2.8 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 0.36 g, 99% | FC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=C(C=C1)F | C16H17F2NO4
